US04937240
To a solution of 1.1 g of 3-[4-(2-chlorophenyl)-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]propionic acid in 15 ml of dimethylformamide are added 0.4 g of N-hydroxybenzotriazole and 0.4 ml of dipropylamine and stirred at room temperature for 10 minutes. To the mixture is added 0.65 g of dicyclohexyl carbodiimide under ice-cooling and stirred for 4 hours and furthermore stirred at room temperature for 16 hours. The resulting dicyclohexylurea is filtered off and to the filtrate is added 50 ml of chloroform. The solution is washed with 5% aqueous sodium hydrogencarbonate solution and water and dried over anhydrous magnesium sulfate. After separating by filtration, the filtrate is concentrated under reduced pressure and the residue is subjected to chromatography on silica gel and then eluted with a mixture of chloroform-methanol (100:1 to 100:3). The eluate of the objective fraction is concentrated under reduced pressure to give 1 g of 3-[4-(2-chlorophenyl)-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]propionic acid N,N-dipropylamide as pale yellow viscous oil.

reactant | 3-[4-(2-chlorophenyl)-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]propionic acid | 1.1 g | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CCC(=O)O)C(=NN2)C)C | C19H17ClN4O2S
reactant | N-hydroxybenzotriazole | 0.4 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dipropylamine | 0.4 ml | C(CC)NCCC | C6H15N
reactant | dicyclohexyl carbodiimide | 0.65 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-[4-(2-chlorophenyl)-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]propionic acid N,N-dipropylamide | 1 g | C(CC)N(C(CCC1=CC=2C(=NC(C=3N(C2S1)C(=NN3)C)C)C3=C(C=CC=C3)Cl)=O)CCC | C25H30ClN5OS
